US07414070B2
149.5 mg (0.66 mMol) of naphtalene-1-sulfonyl chloride were added to a solution of 122 mg (0.6 mMol) of 7-amino-3-(2-dimethylaminoethyl)-1H-indole in 2 ml of dimethylformamide and 116 mg of N-ethyldiisopropylamine. The reaction mixture was stirred at the room temperature for 20 hours. Then it was evaporated to dryness, slightly alkalinized with sodium bicarbonate solution and extracted with chloroform. The organic phase was repeatedly washed with water and saturated solution of sodium bicarbonate, it was separated and dried with anhydrous sodium sulfate. The organic solution was evaporated to dryness and the resulting solid was purified by chromatography, obtaining 120 mg (51%) of N-[1-(2-dimethylaminoethyl)-1H-indole-7-yl]-naphtalene-1-sulfonamide as a solid cream.

reactant | naphtalene-1-sulfonyl chloride | 0.66 mMol, 149.5 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
reactant | 7-amino-3-(2-dimethylaminoethyl)-1H-indole | 0.6 mMol, 122 mg | NC=1C=CC=C2C(=CNC12)CCN(C)C | C12H17N3
reactant | N-ethyldiisopropylamine | 116 mg | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-[1-(2-dimethylaminoethyl)-1H-indole-7-yl]-naphtalene-1-sulfonamide | 120 mg, 51% | CN(CCN1C=CC2=CC=CC(=C12)NS(=O)(=O)C1=CC=CC2=CC=CC=C12)C | C22H23N3O2S
